US05057522
Step 2: 5,7-Dimethyl-2-ethylimidazo[ 4,5-b]pyridine
To a mixture of 8.44 g of a 55:45 mixture of 2-Amino-3-nitro-4,6-dimethylpyridine and 2-Amino-4,6-dimethyl-5-nitropyridine in MeOH (1.2 L) was added 10% Pd/C (2.4 g). The reaction vessel was evacuated then purged with H2 at 1 atm. and stirred vigorously for 18 hours. Filtration (celite), and concentration gave 6.65 g of a mixture of 2,3-diamino-4,6-dimethylpyridine and 2,5-diamino-4,6-dimethylpyridine as a dark solid. To 5.40 g (39.4 mmol) of this mixture was added propionic acid (8.80 mL, 118 mmol) followed by polyphosphoric acid (100 mL). This stirred mixture was heated to 90° C. for 3 hours then to 100° C. for 1 hour. After the reaction was complete, the warm mixture was poured onto 300 g of ice and the mixture was made basic with NH4OH. The mixture was extracted (4×50 mL CH2Cl2), dried (K2CO3) and concentrated to give a mixture of the title compound and 4,6-dimethyl-2,5-bis(propionamido)pyridine. Purification (SiO2, 5% MeOH/ EtOAc) gave 1.66 g of the tilte compound as the slower eluting component. 1H NMR (CD3OD, 300MHz) δ6.95 (s, 1H), 2.92 (q, 2H, J=7.8 Hz), 2.54 (apparent s, 6H), 1.40 (t, 3H, J=7.8 Hz)

reactant | propionic acid | 118 mmol, 8.80 mL | C(CC)(=O)O | C3H6O2
reactant | NH4OH | [NH4+].[OH-]
reactant | 4,6-dimethyl-2,5-bis(propionamido)pyridine | CC1=CC(=NC(=C1NC(CC)=O)C)NC(CC)=O | C13H19N3O2
product | 5,7-Dimethyl-2-ethylimidazo[ 4,5-b]pyridine | CC1=CC(=C2C(=N1)N=C(N2)CC)C | C10H13N3
